US04952598
(d) 3-Benzyl-1-methyl-3-(2-methoxyphenyl)indolin-2-one
20.24 g (0.08 mol) of 1-methyl-3-(2-methoxyphenyl)indolin-2-one are dissolved in 200 ml of dry THF. Then 9.2 g (0.08 mol) of potassium tertiary-butylate are added, and the mixture is stirred at room temperature for 15 minutes. At 10°, a solution of 12.1 ml of benzyl bromide in 20 ml of dry THF is added dropwise, and the mixture is then stirred at room temperature for 3 hours. It is then concentrated in vacuo, the residue is partitioned between water and ethyl acetate, and the organic phase is washed twice with water, dried and concentrated. 26.1 g of product of melting point 174°-176° C. are obtained.

reactant | 1-methyl-3-(2-methoxyphenyl)indolin-2-one | 0.08 mol, 20.24 g | CN1C(C(C2=CC=CC=C12)C1=C(C=CC=C1)OC)=O | C16H15NO2
reactant | benzyl bromide | 12.1 ml | C(C1=CC=CC=C1)Br | C7H7Br
solvent | THF | 200 ml | C1CCOC1 | C4H8O
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | 3-Benzyl-1-methyl-3-(2-methoxyphenyl)indolin-2-one | 26.1 g | C(C1=CC=CC=C1)C1(C(N(C2=CC=CC=C12)C)=O)C1=C(C=CC=C1)OC | C23H21NO2
